US07009057B2
Preparation of 5-[[4-[2-(5-ethyl-2-pyridyl)ethoxy] phenyl]methyl]-2,4-thiazolidinedione
0.5 g of 5-(4-hydroxybenzyl)-1,3-thiazolidine-2,4-dione is dissolved in ethanol (7 ml) with KOH (0.25 g) and mixed at room temperature for 2 hours. To the obtained salt 2-(5-ethyl-2-pyridyl)ethyl tosylate is added and the reaction mixture is refluxed for 5 hours. After cooling the precipitated salt is filtered off, pH is adjusted and the solvent is evaporated. The semi-solid residue is mixed in water and the solid portion of 5-[[4-[2-(5-ethyl-2-pyridyl) ethoxy]phenyl]methyl]-2.4-thiazolidinedione (0.18 g) is filtered off and recrystallized from the mixture DMF-water.

reactant | 5-(4-hydroxybenzyl)-1,3-thiazolidine-2,4-dione | 0.5 g | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | KOH | 0.25 g | [OH-].[K+]
reactant | 2-(5-ethyl-2-pyridyl)ethyl tosylate | S(=O)(=O)(OCCC1=NC=C(C=C1)CC)C1=CC=C(C)C=C1 | C16H19NO3S
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 5-[[4-[2-(5-ethyl-2-pyridyl)ethoxy] phenyl]methyl]-2,4-thiazolidinedione | C(C)C=1C=CC(=NC1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C19H20N2O3S
